US09334304B2
Methyl 4-((diethoxyphosphoryl)methyl)benzoate
To a solution of methyl 4-methylbenzoate (2.01 g, 13.3 mmol) and 1,2-dichloroethane (100 mL) was added benzoyl peroxide (catalytic amount) and NBS (2.84 g, 16.0 mmol). The resulting mixture was heated to reflux while being stirred under nitrogen. After three hours, another catalytic amount of benzoyl peroxide was added and the mixture was refluxed for an additional three hours. The reaction mixture was allowed to cool to RT, followed by the addition of Et2O (20 mL) and filtration of a solid which precipitated out of solution. The filtrate was washed with water (2×) and brine (2×), dried over MgSO4, filtered and the solvent was removed under reduced pressure to give a light yellow clear oil. Triethyl phosphite (2.28 mL, 13.3 mmol) was added to the oil and the reaction was stirred under nitrogen at 160° C. for three hours. Excess triethyl phosphite was distilled off and the product was purified by column chromatography (EtOAc) to give a transparent light yellow oil (2.28 g, 7.97 mmol, 60%). Characterization data matches literature. E. N. Durantini, Synthetic Communications, 29:4201-4222 (1999).

reactant | methyl 4-methylbenzoate | 13.3 mmol, 2.01 g | CC1=CC=C(C(=O)OC)C=C1 | C9H10O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 16.0 mmol, 2.84 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Triethyl phosphite | 13.3 mmol, 2.28 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | Methyl 4-((diethoxyphosphoryl)methyl)benzoate | 7.97 mmol, 2.28 g, 60% | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)OC)C=C1 | C13H19O5P
